US08193351B2
Step 6: Methyl 2-methoxycarbonylmethyl-4-cyano-5-chlorobenzoate
A solution of sodium nitrite (40 mg, 0.6 mmol) in water (0.25 mL) was added to a solution of a mixture (100 mg, 0.39 mmol) of methyl 2-methoxycarbonylmethyl-4-amino-5-chlorobenzoate and methyl 2-methoxycarbonylmethyl-4-amino-3-chlorobenzoate in 2N hydrochloric acid (0.5 mL) under the ice cold condition. The reaction solution was stirred at 0° C. for 1.5 hour. The resulting suspension was dissolved by adding water (0.1 mL) and ethyl acetate (0.2 mL). This solution was added to a suspension of copper (I) cyanide (45 mg, 0.5 mmol) and potassium cyanide (38 mg, 0.6 mmol) in a mixture of water (0.4 mL) and ethyl acetate (0.8 mL) at 0° C. The reaction solution was stirred at 0° C. for 1 hour. The resulting insoluble material was collected by Celite filtration, and washed with a mixed solvent of water and ethyl acetate (1:2). The filtrate and washing solution were combined together. The organic layer was separated, and dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give crude product. The crude product was purified by silica gel column chromatography using n-hexane-ethyl acetate (mixing ratio 10:1), and dried under reduced pressure to give a 0.7:1 mixture (30 mg, 29%) of the title compound and methyl 2-methoxycarbonylmethyl-4-cyano-3-chlorobenzoate.

reactant | sodium nitrite | 0.6 mmol, 40 mg | N(=O)[O-].[Na+]
reactant | methyl 2-methoxycarbonylmethyl-4-amino-5-chlorobenzoate | 0.39 mmol, 100 mg | COC(=O)CC1=C(C(=O)OC)C=C(C(=C1)N)Cl | C11H12ClNO4
reactant | methyl 2-methoxycarbonylmethyl-4-amino-3-chlorobenzoate | COC(=O)CC1=C(C(=O)OC)C=CC(=C1Cl)N | C11H12ClNO4
reactant | copper (I) cyanide | 0.5 mmol, 45 mg | [Cu]C#N
reactant | potassium cyanide | 0.6 mmol, 38 mg | [C-]#N.[K+]
solvent | water | 0.25 mL | O | H2O
solvent | hydrochloric acid | 2N, 0.5 mL | Cl | ClH
solvent | water | 0.4 mL | O | H2O
solvent | ethyl acetate | 0.8 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.2 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 0.1 mL | O | H2O
product | Methyl 2-methoxycarbonylmethyl-4-cyano-5-chlorobenzoate | 30 mg, 29% | COC(=O)CC1=C(C(=O)OC)C=C(C(=C1)C#N)Cl | C12H10ClNO4
